US06150352
Step 3.4A 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-isothiocyanato-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a stirred suspension of calcium carbonate (320 mg) and thiophosgene (120 mg) in 10 mL water:chloroform (1:1) at 0° C. was added 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (450 mg, prepared essentially as described in Example 1) and the mixture stirred at low temperature. After 2 hours the reaction was quenched by the addition of 10% hydrochloric acid and stirring continued until the gas evolution ceased. The mixture was then extracted with chloroform, the combined organics dried over magnesium sulfate and concentrated in vacuo to provide the crude title compound (480 mg).

reactant | calcium carbonate | 320 mg | C([O-])([O-])=O.[Ca+2]
reactant | thiophosgene | 120 mg | C(=S)(Cl)Cl | CCl2S
reactant | 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N)Cl)=O)C1=CC(=CC(=C1)C)C | C29H36ClN3O4
solvent | water chloroform | 10 mL | O.C(Cl)(Cl)Cl
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-isothiocyanato-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 480 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N=C=S)Cl)=O)C1=CC(=CC(=C1)C)C | C30H34ClN3O4S
